US05180418
Preparation of 1-(5-amino-2-chloro-4-fluorophenylthio)-cyclopropanecarboxylic acid ethyl ester
A mixture of 12.5 g of 2-(5-amino-2-chloro-4-fluorophenylthio)-4-chlorobutyric acid ethyl ester, 10.6 g of potassium carbonate and 0.7 g of tetrabutylammonium hydrogen sulfate in 14 ml of toluene is maintained at +80° C. for 40 hours. The solid portions of the reaction mixture are then filtered off and washed with acetone. Evaporation of the solvent and recrystallisation from n-hexane and a small amount of ethyl acetate yield 7.9 g of 1-(5-amino-2-chloro-4-fluoro-phenylthio)-cyclopropanecarboxylic acid ethyl ester having a melting point of from +96° to +97° C.

reactant | 2-(5-amino-2-chloro-4-fluorophenylthio)-4-chlorobutyric acid ethyl ester | 12.5 g | C(C)OC(C(CCCl)SC1=C(C=C(C(=C1)N)F)Cl)=O | C12H14Cl2FNO2S
reactant | potassium carbonate | 10.6 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium hydrogen sulfate | 0.7 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(5-amino-2-chloro-4-fluorophenylthio)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)SC1=C(C=C(C(=C1)N)F)Cl | C12H13ClFNO2S
